US08686022B2
(24) (R)-7-[4-(3-dimethylamino-pyrrolidine-1-carbonyl)-piperidin-1-ylmethyl]-1-methyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylic acid and (R)-3-dimethylamino-pyrrolidine are used as reactants.

reactant | 1-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-4-carboxylic acid | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCC(CC1)C(=O)O)C)OC)NS(=O)(=O)C | C29H38N4O6S
reactant | (R)-3-dimethylamino-pyrrolidine | CN([C@H]1CNCC1)C | C6H14N2
product | (R)-7-[4-(3-dimethylamino-pyrrolidine-1-carbonyl)-piperidin-1-ylmethyl]-1-methyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCC(CC1)C(=O)N1C[C@@H](CC1)N(C)C)C)OC)NS(=O)(=O)C | C35H50N6O5S
